US06569411B2
a) 3-Hydroxy-2-(2-trimethylsilanyl-ethoxycarbonylamino)-propionic acid methyl ester
To a mixture of 1.25 g serine methyl ester hydrochloride, 2.25 ml triethylamine and 10 ml dichloromethane was added at 0° C. a solution of 2.22 g carbonic acid 2,5-dioxo-pyrrolidin-1-yl ester 2-trimethylsilanyl-ethyl ester [R. E. Shute, D. H. Rich, Synthesis, 1987, 346]. After stirring for 24 h at rt the reaction mixture was washed two times with 1N potassium hydrogen sulfate, once with saturated sodium bicarbonate solution and once with brine. The organic phase was dried over magnesium sulfate, filtered and evaporated to give 2.29 g of a colorless liquid.

reactant | serine methyl ester hydrochloride | 1.25 g | Cl.COC([C@@H](N)CO)=O
reactant | triethylamine | 2.25 ml | C(C)N(CC)CC | C6H15N
reactant | carbonic acid 2,5-dioxo-pyrrolidin-1-yl ester 2-trimethylsilanyl-ethyl ester | 2.22 g | C[Si](CCOC(ON1C(CCC1=O)=O)=O)(C)C | C10H17NO5Si
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-Hydroxy-2-(2-trimethylsilanyl-ethoxycarbonylamino)-propionic acid methyl ester | 2.29 g | COC(C(CO)NC(=O)OCC[Si](C)(C)C)=O | C10H21NO5Si
